US04891367
To a solution of 4 g of 3β-(t-butyldimethylsilyloxy)androst-5-en-17β-ol in 50 ml of vinyl ethyl ether, there was added 0.25 g of mercuric acetate. The mixture was stirred at room temperature for 24 hours, quenched with triethylamine, and then poured into dilute aqueous potassium carbonate solution. The aqueous mixture was extracted 3 times with 100 ml-portions of diethyl ether and the combined organic extracts were washed with saturated aqueous sodium chloride solution and then dried over sodium sulfate. The solvent was then removed under reduced pressure and the residue was purified by flash chromatography using ethyl acetate/hexane, 1:4, to give 3β-(t-butyldimethylsilyloxy)-17β-ethenyloxyandrost-5-ene.

reactant | 3β-(t-butyldimethylsilyloxy)androst-5-en-17β-ol | 4 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O | C25H44O2Si
reactant | vinyl ethyl ether | 50 ml | C(C)OC=C | C4H8O
product | 3β-(t-butyldimethylsilyloxy)-17β-ethenyloxyandrost-5-ene | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OC=C | C27H46O2Si
